** Generated for: hspiceD
** Generated on: Jan  5 21:02:24 2020
** Design library name: PhasedArray_WB_copy
** Design cell name: LNA_QM
** Design view name: schematic


.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2


** Library name: PhasedArray_WB_copy
** Cell name: LNA_QM
** View name: schematic
xr5 net011 vaux vdd rppolywo_rf l=6e-6 w=500e-9 m=1 
xr4 net063 sf_bias vdd rppolywo_rf l=6e-6 w=500e-9 m=1 
xr10 net0252 vmain vdd rppolywo_rf l=6e-6 w=500e-9 m=1 
xr3 net033 sf_bias vdd rppolywo_rf l=6e-6 w=500e-9 m=1 
xc12 net0252 vss vss mimcap_um_sin_rf lt=16e-6 wt=16e-6 m=1 
xc9 net0252 vss vss mimcap_um_sin_rf lt=16e-6 wt=16e-6 m=1 
xc6 outn net063 vdd mimcap_um_sin_rf lt=20e-6 wt=20e-6 m=1 
xc43 in_int net011 vdd mimcap_um_sin_rf lt=16e-6 wt=16e-6 m=1 
xc5 outp net033 vdd mimcap_um_sin_rf lt=20e-6 wt=20e-6 m=1 
xc11 net059 vdd vdd mimcap_um_sin_rf lt=100e-6 wt=50e-6 m=1 
xc8 net047 vdd vdd mimcap_um_sin_rf lt=100e-6 wt=50e-6 m=1 
xm10 vdd net033 voutp voutp nmos_rf lr=120e-9 wr=2e-6 nr=32 sigma=1 m=1 mismatchflag=0
xm12 vdd net063 voutn voutn nmos_rf lr=120e-9 wr=2e-6 nr=32 sigma=1 m=1 mismatchflag=0
xm4 outn net011 vss vss nmos_rf lr=60e-9 wr=1e-6 nr=10 sigma=1 m=4 mismatchflag=0
xm13 outp net0252 in_int in_int nmos_rf lr=60e-9 wr=1e-6 nr=10 sigma=1 m=1 mismatchflag=0
xr38 net058 net057 vdd rppolyl_rf l=24e-6 w=3e-6 m=1 
xr0 voutp vss vdd rppolys_rf l=20e-6 w=1e-6 m=1 
xr36 net042 net056 vdd rppolyl_rf l=24e-6 w=3e-6 m=1 
xr35 net056 net055 vdd rppolyl_rf l=24e-6 w=3e-6 m=1 
xr34 net055 net054 vdd rppolyl_rf l=24e-6 w=3e-6 m=1 
xr33 net054 net060 vdd rppolyl_rf l=24e-6 w=3e-6 m=1 
xr41 outn net032 vdd rppolyl_rf l=24e-6 w=3e-6 m=1 
xr32 net060 outp vdd rppolyl_rf l=24e-6 w=3e-6 m=1 
xr1 voutn vss vdd rppolys_rf l=20e-6 w=1e-6 m=1 
xr40 net032 vdd vdd rppolyl_rf l=24e-6 w=3e-6 m=1 
xr37 net057 net042 vdd rppolyl_rf l=24e-6 w=3e-6 m=1 
xr39 vdd net058 vdd rppolyl_rf l=24e-6 w=3e-6 m=1 
xl8 net047 outp vss spiral_std_mu_z w=3e-6 rad=45.5e-6 nr=3.75 
xl9 net059 outn vss spiral_std_mu_z w=3e-6 rad=42.4e-6 nr=3.75 
xl7 in in_int vss spiral_std_mu_z w=3e-6 rad=30e-6 nr=3.5 
.END
